US04892963
(iii) 5-Methylisoxazol-4-yl carboxylic acid
Ethyl 5-methylisoxazol-4-yl carboxylate (65 g) was heated under reflux in 10M HCl (500 ml) for 3 hours. On cooling the product crystallised out. This was filtered and dried giving 42 g of a white crystalline solid, m.p. 134°-136° C.

reactant | Ethyl 5-methylisoxazol-4-yl carboxylate | 65 g | CC1=C(C=NO1)C(=O)OCC | C7H9NO3
solvent | HCl | 10M, 500 ml | Cl | ClH
product | 5-Methylisoxazol-4-yl carboxylic acid | 42 g | CC1=C(C=NO1)C(=O)O | C5H5NO3
